US05648498
a) α-Chloro-α-acetyl-γ-ethyl-γ-butyrolactone
Into a solution of 58.2 g (0.37 moles) of α-acetyl-γ-ethyl-γ-butyrolactone [prepared according to J. Pharm. Sci. 52, 733 (1963)] in 60 cm3 benzene 50 g of (0.37 moles) of sulphuryl chloride are added dropwise under stirring and cooling in 2 hours, keeping the temperature of the reaction mixture between 5 and 10° C. After completing the addition the reaction mixture is let to warm to room temperature and stirred at this temperature until the gas formation ceases. Then it is poured into 400 cm3 of water, the phases are separated and the water is extracted with 200 cm3 of benzene. The benzene containing solution is washed with 100 cm3 of 5% sodium hydrogencarbonate solution. After evaporation the residual oil is distilled in vacuo. The title compound is obtained in the form of a colourless liquid in an amount of 58.9 g (82.5%), its boiling point is 91° C. at a pressure of 80 Pa, nD20 =1,4623.

reactant | α-acetyl-γ-ethyl-γ-butyrolactone | 0.37 moles, 58.2 g | C(C)(=O)C1C(=O)OC(C1)CC | C8H12O3
reactant | sulphuryl chloride | 0.37 moles | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 400 cm3 | O | H2O
solvent | benzene | 60 cm3, 50 g | C1=CC=CC=C1 | C6H6
product | α-Chloro-α-acetyl-γ-ethyl-γ-butyrolactone | ClC1(C(=O)OC(C1)CC)C(C)=O | C8H11ClO3
